* File: L2_trialSDFLx4_ASAP7_75t_R.pex.netlist.pex
* Created: Fri Sep 16 10:16:43 2016
* Program "Calibre xRC"
* Version "v2015.2_36.27"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_L2_TRIALSDFLX4_ASAP7_75T_R%CLK 2 5 7 10 vss!
c7 2 vss! 0.043022f
r8 5 10 2.15432
r9 5 7 303.467
r10 2 5 303.467
.ends

.subckt PM_L2_TRIALSDFLX4_ASAP7_75T_R%CLKN 2 5 7 13 16 22 25 31 47 52 73 90 93
+ 115 vss!
c33 115 vss! 0.0146195f
c34 93 vss! 0.0679545f
c35 90 vss! 0.0121792f
c36 73 vss! 0.0206933f
c37 52 vss! 0.00397218f
c38 47 vss! 0.0075295f
c39 31 vss! 0.0409809f
c40 25 vss! 0.100049f
c41 22 vss! 0.0442902f
c42 16 vss! 0.0458296f
c43 13 vss! 0.0354879f
c44 2 vss! 0.0389187f
r45 93 115 460.849
r46 90 93 500.114
r47 73 90 1.14052
r48 52 90 15.7833
r49 47 73 23.0349
r50 25 115 86.044
r51 25 31 278.879
r52 22 25 515.144
r53 16 115 558.029
r54 13 93 716.048
r55 5 73 24.7435
r56 5 7 303.467
r57 2 5 303.467
.ends

.subckt PM_L2_TRIALSDFLX4_ASAP7_75T_R%SP 2 7 10 15 25 vss!
c0 25 vss! 0.0237234f
c1 13 vss! 0.0569155f
c2 10 vss! 0.0426403f
c3 2 vss! 0.0414122f
r4 13 25 19.1366
r5 13 15 252.889
r6 10 13 252.889
r7 5 25 26.275
r8 5 7 252.889
r9 2 5 252.889
.ends

.subckt PM_L2_TRIALSDFLX4_ASAP7_75T_R%SN 2 7 9 14 vss!
c0 29 vss! 0.0927426f
c1 5 vss! 0.0198243f
c2 2 vss! 0.0422847f
r3 14 29 8.40741
r4 9 29 58.8562
r5 5 29 15.0358
r6 5 7 252.889
r7 2 5 252.889
.ends

.subckt PM_L2_TRIALSDFLX4_ASAP7_75T_R%D0 2 7 13 vss!
c0 2 vss! 0.0553588f
r1 5 13 1
r2 5 7 252.889
r3 2 5 252.889
.ends

.subckt PM_L2_TRIALSDFLX4_ASAP7_75T_R%D1 2 7 13 vss!
c0 2 vss! 0.0573783f
r1 5 13 1
r2 5 7 252.889
r3 2 5 252.889
.ends

.subckt PM_L2_TRIALSDFLX4_ASAP7_75T_R%NET05 2 7 9 14 19 20 23 30 46 vss!
c10 46 vss! 0.0345843f
c11 30 vss! 0.0551718f
c12 2 vss! 0.0392594f
r13 30 46 9.78352
r14 23 46 30.2032
r15 20 23 8.39506
r16 19 23 8.39506
r17 14 30 35.5949
r18 9 30 50.2616
r19 5 46 19.4855
r20 5 7 252.889
r21 2 5 252.889
.ends

.subckt PM_L2_TRIALSDFLX4_ASAP7_75T_R%CLKB 2 5 7 10 13 15 17 22 43 46 vss!
c24 46 vss! 0.0541242f
c25 43 vss! 0.0328234f
c26 17 vss! 0.00761684f
c27 13 vss! 0.0187884f
c28 10 vss! 0.0396682f
c29 5 vss! 0.0112517f
c30 2 vss! 0.0396844f
r31 43 46 494.614
r32 22 43 18.9747
r33 17 43 21.4191
r34 13 46 466.349
r35 13 15 354.044
r36 10 13 354.044
r37 5 46 448.015
r38 5 7 357.791
r39 2 5 249.142
.ends

.subckt PM_L2_TRIALSDFLX4_ASAP7_75T_R%MS 2 7 9 10 14 19 vss!
c0 41 vss! 0.0262652f
c1 19 vss! 0.0182333f
c2 17 vss! 0.0343563f
c3 2 vss! 0.0563419f
r4 17 41 13.7905
r5 17 19 66.7196
r6 14 17 22.2222
r7 13 41 28.4163
r8 10 13 25.1852
r9 9 13 25.1852
r10 5 41 6.5
r11 5 7 503.905
r12 2 5 204.184
.ends

.subckt PM_L2_TRIALSDFLX4_ASAP7_75T_R%MH 2 7 9 14 16 20 21 43 vss!
c4 43 vss! 0.0371945f
c5 20 vss! 0.0182327f
c6 2 vss! 0.063989f
r7 21 22 15.8795
r8 20 43 12.8885
r9 20 22 23.4357
r10 16 22 15.8795
r11 16 20 8.38915
r12 14 15 15.8795
r13 13 43 35.8521
r14 13 15 23.4357
r15 9 15 15.8795
r16 9 13 8.38915
r17 5 43 7.6561
r18 5 7 370.904
r19 2 5 337.185
.ends

.subckt PM_L2_TRIALSDFLX4_ASAP7_75T_R%SS 2 7 9 14 vss!
c0 27 vss! 0.0678919f
c1 2 vss! 0.0391605f
r2 14 27 39.2041
r3 9 27 23.2222
r4 5 27 10.6615
r5 5 7 464.566
r6 2 5 243.523
.ends

.subckt PM_L2_TRIALSDFLX4_ASAP7_75T_R%SH 2 5 7 10 15 18 23 26 31 34 39 41 42 45
+ 46 47 50 73 76 85 vss!
c6 85 vss! 0.0302171f
c7 76 vss! 0.0182384f
c8 73 vss! 0.00973894f
c9 50 vss! 0.0134333f
c10 45 vss! 0.0459097f
c11 37 vss! 0.00714114f
c12 34 vss! 0.0388707f
c13 29 vss! 0.00390853f
c14 26 vss! 0.0388707f
c15 21 vss! 0.00390853f
c16 18 vss! 0.0388707f
c17 13 vss! 0.00708697f
c18 10 vss! 0.0388707f
c19 5 vss! 0.0114932f
c20 2 vss! 0.0387807f
r21 82 85 3.66667
r22 79 82 3.66667
r23 76 79 465.349
r24 73 76 0.665215
r25 50 73 6.89913
r26 47 50 25.1852
r27 46 50 25.1852
r28 45 76 13.9208
r29 42 45 25.1852
r30 41 45 25.1852
r31 37 85 451.682
r32 37 39 252.889
r33 34 37 252.889
r34 29 85 448.015
r35 29 31 252.889
r36 26 29 252.889
r37 21 82 448.015
r38 21 23 252.889
r39 18 21 252.889
r40 13 79 448.015
r41 13 15 252.889
r42 10 13 252.889
r43 5 73 8.96577
r44 5 7 335.312
r45 2 5 372.777
.ends

.subckt PM_L2_TRIALSDFLX4_ASAP7_75T_R%QN 1 6 7 11 16 21 22 26 58 vss!
c0 58 vss! 0.0363267f
c1 42 vss! 0.128025f
r2 53 58 2.12448
r3 50 53 7.33333
r4 47 50 7.33333
r5 42 58 14.0751
r6 39 42 7.33333
r7 36 47 16.1996
r8 36 39 7.33333
r9 26 53 8.40741
r10 25 50 1
r11 22 25 8.39506
r12 21 25 8.39506
r13 16 47 8.40741
r14 11 42 35.5949
r15 10 39 28.1875
r16 7 10 8.39506
r17 6 10 8.39506
r18 1 36 35.5949
.ends

.subckt PM_L2_TRIALSDFLX4_ASAP7_75T_R%PD1 1 6 vss!
c0 6 vss! 0.0410447f
r1 1 6 29.6473
.ends

.subckt PM_L2_TRIALSDFLX4_ASAP7_75T_R%PU1 1 2 vss!
c4 1 vss! 0.00837992f
r5 1 2 16.7901
.ends

.subckt PM_L2_TRIALSDFLX4_ASAP7_75T_R%PD2 1 6 vss!
c2 6 vss! 0.0289538f
r3 1 6 88.9418
.ends

.subckt PM_L2_TRIALSDFLX4_ASAP7_75T_R%PD5 1 6 vss!
c3 6 vss! 0.0251294f
r4 1 6 88.9418
.ends

.subckt PM_L2_TRIALSDFLX4_ASAP7_75T_R%PD4 1 2 vss!
c3 1 vss! 0.00644767f
r4 1 2 50.3704
.ends

.subckt PM_L2_TRIALSDFLX4_ASAP7_75T_R%PD3 1 2 vss!
c0 1 vss! 0.00225121f
r1 1 2 50.3704
.ends

