************************************************************************
* auCdl Netlist:
* 
* Library Name:  eee525
* Top Cell Name: L2_trialSDFLx4_ASAP7_75t_R
* View Name:     schematic
* Netlisted on:  Sep 16 10:16:12 2016
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!

*.PIN vss!
*+    vdd!

************************************************************************
* Library Name: eee525
* Cell Name:    L2_trialSDFLx4_ASAP7_75t_R
* View Name:    schematic
************************************************************************

.SUBCKT L2_trialSDFLx4_ASAP7_75t_R CLK D0 D1 Qn Sp
*.PININFO CLK:I D0:I D1:I Sp:I Qn:O
MM58 SH clkb pd5 vss! nmos_rvt w=27.0n l=20n nfin=1
MM57 pd5 SS vss! vss! nmos_rvt w=27.0n l=20n nfin=1
MM55 SS SH vss! vss! nmos_rvt w=27.0n l=20n nfin=1
MM54 MS clkn SH vss! nmos_rvt w=27.0n l=20n nfin=1
MM51 MS MH vss! vss! nmos_rvt w=27.0n l=20n nfin=1
MM48 MH clkn pd3 vss! nmos_rvt w=27.0n l=20n nfin=1
MM47 pd3 MS vss! vss! nmos_rvt w=27.0n l=20n nfin=1
MM46 clkb clkn vss! vss! nmos_rvt w=54.0n l=20n nfin=2
MM44 pd1 net05 vss! vss! nmos_rvt w=81.0n l=20n nfin=3
MM43 MH clkb pd1 vss! nmos_rvt w=81.0n l=20n nfin=3
MM38 Sn Sp vss! vss! nmos_rvt w=81.0n l=20n nfin=3
MM29 net05 Sn net86 vss! nmos_rvt w=81.0n l=20n nfin=3
MM28 net86 D0 vss! vss! nmos_rvt w=81.0n l=20n nfin=3
MM2 net05 Sp net84 vss! nmos_rvt w=81.0n l=20n nfin=3
MM39 clkn CLK vss! vss! nmos_rvt w=54.0n l=20n nfin=2
MM24 Qn SH vss! vss! nmos_rvt w=324.00n l=20n nfin=12
MM0 net84 D1 vss! vss! nmos_rvt w=81.0n l=20n nfin=3
MM60 pd4 SS vdd! vdd! pmos_rvt w=27n l=20n nfin=1
MM59 SH clkn pd4 vdd! pmos_rvt w=27n l=20n nfin=1
MM56 SS SH vdd! vdd! pmos_rvt w=27n l=20n nfin=1
MM53 MS clkb SH vdd! pmos_rvt w=27n l=20n nfin=1
MM52 MS MH vdd! vdd! pmos_rvt w=27n l=20n nfin=1
MM50 pd2 MS vdd! vdd! pmos_rvt w=27n l=20n nfin=1
MM49 MH clkb pd2 vdd! pmos_rvt w=27n l=20n nfin=1
MM45 clkb clkn vdd! vdd! pmos_rvt w=54.0n l=20n nfin=2
MM42 MH clkn pu1 vdd! pmos_rvt w=81.0n l=20n nfin=3
MM41 pu1 net05 vdd! vdd! pmos_rvt w=81.0n l=20n nfin=3
MM32 Sn Sp vdd! vdd! pmos_rvt w=81.0n l=20n nfin=3
MM40 clkn CLK vdd! vdd! pmos_rvt w=54.0n l=20n nfin=2
MM31 net05 D0 net070 vdd! pmos_rvt w=81.0n l=20n nfin=3
MM30 net070 Sp vdd! vdd! pmos_rvt w=81.0n l=20n nfin=3
MM27 net070 D1 vdd! vdd! pmos_rvt w=81.0n l=20n nfin=3
MM26 net05 Sn net070 vdd! pmos_rvt w=81.0n l=20n nfin=3
MM25 Qn SH vdd! vdd! pmos_rvt w=324.00n l=20n nfin=12
.ENDS

